US04111923
(b) 5-p-Methoxybenzyl-hydantoin
5-p-Methoxybenzylidene hydantoin, 171.5 g., in 680 ml. of water, 63 g. of 50% sodium hydroxide solution and 6 g. of 20% palladium-on-carbon is shaken under a hydrogen atmosphere at a pressure of 51.5 psi. for about one and a half hours until the hydrogen pressure no longer diminishes. The reaction is vented and the mixture filtered to separate the catalyst. The filtrate is cooled and taken to pH 2 with concentrated hydrochloric acid. The solid is separated by filtration, washed with water and dried at 50° C. in a vacuum oven yielding the above named compound, mp. 177°-179° C.

reactant | 5-p-Methoxybenzylidene hydantoin | COC1=CC=C(C=C2C(NC(N2)=O)=O)C=C1 | C11H10N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | water | O | H2O
product | 5-p-Methoxybenzyl-hydantoin | COC1=CC=C(CC2C(NC(N2)=O)=O)C=C1 | C11H12N2O3
